datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:26])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:9])([H:7])[H:8],40.1246
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([O:7])([H:8])([H:9])[H:10]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][O:7][C:6]([H:8])([H:9])[H:10],28.242
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],25.3969
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([c:25]1[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]1[H:37])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:24]([c:25]1[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]1[H:37])([H:31])[H:32])[H:14])([H:12])[H:13],45.1454
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20](=[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[H:27])[H:26])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:22]([C:21](=[C:20]([H:24])[H:25])[H:26])([C:23]([H:28])([H:29])[H:30])[H:27])[H:10])([H:8])[H:9],40.4174
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([C:19](=[S:20])[H:23])([H:21])[H:22]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:18]([C:19](=[S:20])[H:23])([H:21])[H:22],54.392
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8])([H:6])[H:7]>>[C:0](=[C:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[C:4]([C:5]([H:14])([H:15])[H:16])([H:12])[H:13],134.988392
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[H:6]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][H:6],85.7302
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](#[C:7][C:8]([C:9]([H:12])([H:13])[H:14])[C:10]([H:15])([H:16])[H:17])[H:11]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7]#[C:6][H:11])([C:9]([H:12])([H:13])[H:14])[C:10]([H:15])([H:16])[H:17],164.473
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])([H:7])([H:8])[H:9].[O:18][O:19]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])[O:18][O:19])([H:7])([H:8])[H:9],-1.7459832
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[O:13][H:14]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:5])[H:6].[H:4][O:13][H:14],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([S:14][H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:13]([S:14][H:17])([H:15])[H:16],13.8072
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([C:8](=[S:9])[H:13])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:13])[H:4].[C:7]([C:8]=[S:9])([H:10])([H:11])[H:12],14.644
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([c:24]1[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]1[H:36])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:23]([c:24]1[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]1[H:36])([H:30])[H:31])[H:14])[H:13])([H:11])[H:12],44.3086
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15](=[C:16]([C:17]([H:23])([H:24])[H:25])[H:22])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:15]([C:14]([H:18])([H:19])[H:20])([C:16]([C:17]([H:23])([H:24])[H:25])[H:22])[H:21])[H:7])([H:5])[H:6],49.6641
